US06831106B1
g) 3-Methoxymethoxyphenylboronic acid
10 g (57.8 mmol) of 3-bromophenol are dissolved in 150 mL of anhydrous DMF. 2.55 g (63.6 mmol) of 60% sodium hydride are then added and the reaction medium is stirred for 1 hour. 4.83 mL (63.6 mmol) of methoxymethyl chloride are then added dropwise and the reaction mixture is stirred for 1 h. After treatment with saturated ammonium chloride solution, extraction with ethyl ether and evaporation of the solvents from the organic phase, the residue obtained is dissolved in 200 mL of anhydrous THF. The mixture is cooled to −78° C. and 25.4 mL (63.6 mmol) of 2.5M butyllithium solution are then added. After stirring for 1 hour at −78° C, 15 mL (65 mmol) of triisopropyl borate are added dropwise. The reaction medium is stirred for 1 hour and then warmed to room temperature, after which it is treated with 1N hydrochloric acid solution. The medium is then extracted with ethyl acetate, after which the organic phases are combined, dried and then concentrated under reduced pressure. After slurrying in heptane and then concentration, a brown solid is obtained (m.p.=45° C., m=5.8 g; Y=67%).

reactant | 3-bromophenol | 57.8 mmol, 10 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | sodium hydride | 63.6 mmol, 2.55 g | [H-].[Na+]
reactant | methoxymethyl chloride | 63.6 mmol, 4.83 mL | COCCl | C2H5ClO
reactant | butyllithium | 63.6 mmol, 2.5M, 25.4 mL | C(CCC)[Li]
reactant | triisopropyl borate | 65 mmol, 15 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-Methoxymethoxyphenylboronic acid | COCOC=1C=C(C=CC1)B(O)O | C8H11BO4
